US09163027B2
2-{[3-(5-Amino-1H-1,2,4-triazol-3-yl)propyl](4-fluorophenyl)amino}ethan-1-ol
A mixture of methyl 4-[(4-fluorophenyl)(2-hydroxyethyl)amino]butanoate (1.1 g, 4.31 mmol), aminoguanidine bicarbonate (1.47 g, 10.78 mmol), and pyridine (12 mL) was added to a 200 mL RBF with a magnetic stirring bar. The flask was fitted with a condenser and heated to 125° C. using an oil bath. Progress of the reaction was monitored by TLC using chloroform:methanol: acetic acid (9:1:0.2) (Rf starting material=0.8, Rf product=0.1). During the course of heating, additional portions of aminoguanidine bicarbonate were added at 15 h and 22 h (2×1.0 g, 14.7 mmol total). After 37 hours of heating, the reaction was complete by TLC analysis and was allowed to cool to ambient temperature. The mixture was concentrated under reduced pressure and partitioned between ethyl acetate (60 mL) and water (30 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with saturated aqueous NaCl (10 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by silica gel column chromatography using 100% ethyl acetate, followed by 10% methanol in dichloromethane to afford the title compound as an oil (0.55 g, 45% yield).

reactant | methyl 4-[(4-fluorophenyl)(2-hydroxyethyl)amino]butanoate | 4.31 mmol, 1.1 g | FC1=CC=C(C=C1)N(CCCC(=O)OC)CCO | C13H18FNO3
reactant | aminoguanidine bicarbonate | 10.78 mmol, 1.47 g | C(O)(O)=O.NNC(=N)N
reactant | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
product | 2-{[3-(5-Amino-1H-1,2,4-triazol-3-yl)propyl](4-fluorophenyl)amino}ethan-1-ol | 0.55 g, 45% yield | NC1=NC(=NN1)CCCN(CCO)C1=CC=C(C=C1)F | C13H18FN5O
